US03992400
In the manner given in Example 1, α-phenyl-o-toluidine is reacted first with trimethyl orthoformate; the resulting product is reacted with aminoacetaldehyde, dimethyl acetal, and the resulting product of this reaction is heated with titanium tetrachloride in monoglyme to give 1-(α-phenyl-o-tolyl)imidazole.

reactant | α-phenyl-o-toluidine | C1(=CC=CC=C1)CC=1C(N)=CC=CC1 | C13H13N
reactant | trimethyl orthoformate | C(OC)(OC)OC | C4H10O3
reactant | aminoacetaldehyde | NCC=O | C2H5NO
solvent | monoglyme | C(OC)COC | C4H10O2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | 1-(α-phenyl-o-tolyl)imidazole | C1(=CC=CC=C1)CC1=C(C=CC=C1)N1C=NC=C1 | C16H14N2
